US08084483B2
3-(5-Amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)propanoate, (200 mg 0.523 mmol), sodium nitrite (361 mg, 5.233 mmol, 10 eq.) and benzyltriethylammonium bromide (427 mg, 1.570 mmol, 3 eq.) were suspended in bromoform (3 mL) and stirred at room temperature for ˜30 min. Dichloroacetic acid was then added (86 μL, 135 mg; 1.047 mmol, 2 eq.), and the mixture stirred at room temperature overnight, covering the flask with foil to keep light out. Water was added (5 mL) and stirring continued for a further 30 min. The reaction mixture was then transferred to a sep. funnel and additional water and dichloromethane were added. The organic layer was collected and the aqueous layer washed with dichloromethane (2×). The combined organic extracts were dried over sodium sulfate, filtered, concentrated and purified by flash column chromatography (6:4 Hexanes/Ethyl acetate) to give ethyl 3-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)propanoate as a light brown oil (111 mg, 47.6%).

reactant | 3-(5-Amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)propanoate | 0.523 mmol, 200 mg | NC=1N(C(=NN1)SCCC(=O)[O-])C1=CC=C(C2=CC=CC=C12)C1CC1
reactant | sodium nitrite | 5.233 mmol, 361 mg, 10 eq. | N(=O)[O-].[Na+]
reactant | Dichloroacetic acid | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | Water | O | H2O
reactant | bromoform | 3 mL | C(Br)(Br)Br | CHBr3
catalyst | benzyltriethylammonium bromide | 1.570 mmol, 427 mg, 3 eq. | [Br-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)propanoate | 111 mg, 47.6% | BrC=1N(C(=NN1)SCCC(=O)OCC)C1=CC=C(C2=CC=CC=C12)C1CC1 | C20H20BrN3O2S
